US09382356B2
(i) Synthesis of 2,7-di(2-naphthyl)-3,6-ditert-butyl-fluorene
Under a nitrogen atmosphere, 45 mL of dehydrated 1,2-dimethoxyethane was added to 3.02 g (6.92 mmol) of 2,7-dibromo-3,6-ditert-butyl-fluorene synthesized in Synthesis Example 1-1(i) and 0.40 g (0.35 mmol) of Pd(PPh3), and the mixture was stirred at room temperature for 20 minutes. To this solution, a solution prepared by dissolving 2.62 g (15.2 mmol) of 2-naphthylboric acid in 15 mL of ethanol was added, and the mixture was stirred at room temperature for 20 minutes. Then, 13.8 mL (27.7 mmol) of a 2.0 mol/L aqueous solution of sodium carbonate was added. The mixture was heated to reflux for 21 hours, and then left to be naturally cooled. Subsequently, the reaction was terminated with 1N hydrochloric acid in an ice bath. Thereafter, dichloromethane was added to perform liquid-liquid phase separation. The aqueous layer was subjected to extraction with diethyl ether twice, and the resultant was combined with the organic layer obtained previously. The resulting liquid was washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and then dried over magnesium sulfate. Subsequently, the solvent was distilled off, and the resulting solids were subjected to separation by silica gel chromatography. To the yellow powder obtained, a mixed solution of n-hexane and a small amount of dichloromethane was added. The mixture was heated to 65° C. to dissolve the powder completely, and was then left to stand overnight at room temperature. Crystals precipitated were washed three times with 10 mL of n-hexane to obtain a target product as a white powder (yield 2.71 g (74%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | 1,2-dimethoxyethane | 45 mL | COCCOC | C4H10O2
reactant | 2,7-dibromo-3,6-ditert-butyl-fluorene | 6.92 mmol, 3.02 g | BrC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)Br | C21H24Br2
reactant | 2-naphthylboric acid | 15.2 mmol, 2.62 g | C1=C(C=CC2=CC=CC=C12)OB(O)O | C10H9BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 2,7-di(2-naphthyl)-3,6-ditert-butyl-fluorene | yield 2.71 g, 74% | C1=C(C=CC2=CC=CC=C12)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC2=CC=CC=C2C=C1 | C41H38
